US07897627B2
a) Step 1: 4-Fluoro-benzooxazole-2-thiol
A mixture of 1 g (7.867 mmol) 2-amino-3-fluorophenol and 1.42 g (8.654 mmol) potassium ethylxanthogenate in 28 mL methanol was heated in a 70° C. oil bath for 3 h. The solvent was removed in vacuo. The residue was dissolved in 50 mL water. The aqueous layer was acidified with HCl 2N. The solid was filtered, washed with water and dried to provide 568 mg (42.7%) of the title compound as a light grey solid. MS(m/e): 168.0 (M−H+).

reactant | 2-amino-3-fluorophenol | 7.867 mmol, 1 g | NC1=C(C=CC=C1F)O | C6H6FNO
reactant | potassium ethylxanthogenate | 8.654 mmol, 1.42 g | CCOC(=S)[S-].[K+]
solvent | methanol | 28 mL | CO | CH4O
product | 4-Fluoro-benzooxazole-2-thiol | 568 mg, 42.7% | FC1=CC=CC2=C1N=C(O2)S | C7H4FNOS
